US08629137B2
Step 1: (4-benzyloxy-3,5-dimethyl-phenyl)-(6-chloro-pyrimidin-4-yl)-methanone
150 mg (1.00 mmol) 4,6-dichloropyrimidine, 367 mg (1.50 mmol) 4-benzyloxy-3,5-dimethylbenzaldehyde and 166 mg (0.600 mmol) 1,3-dimethyl-3H-benzimidazol-1-ium-iodide (Chem. Pharm. Bull. 1990, 1147-52) in 10.0 mL THF were stirred at RT. Then 73.0 mg (1.51 mmol) sodium hydride (50% in mineral oil) were added and the reaction mixture was refluxed for 2.5 h. The reaction mixture was added to ice water and extracted with DCM. The organic phase was dried and evaporated down.

reactant | 4,6-dichloropyrimidine | 1.00 mmol, 150 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-benzyloxy-3,5-dimethylbenzaldehyde | 1.50 mmol, 367 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1C)C | C16H16O2
reactant | 1,3-dimethyl-3H-benzimidazol-1-ium-iodide | 0.600 mmol, 166 mg | [I-].C[N+]1=CN(C2=C1C=CC=C2)C
reactant | sodium hydride | 1.51 mmol, 73.0 mg | [H-].[Na+]
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | (4-benzyloxy-3,5-dimethyl-phenyl)-(6-chloro-pyrimidin-4-yl)-methanone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C(=O)C1=NC=NC(=C1)Cl)C | C20H17ClN2O2
